US09315521B2
6-methyl-2-({[4-methyl-1-(propan-2-yl)-1H-imidazol-5-yl]methyl}sulfanyl)pyrimidin-4-ol hydrochloride
To a mixture of 6-methyl-2-({[4-methyl-1-(propan-2-yl)-1H-imidazol-5-yl]methyl}-sulfanyl)pyrimidin-4-ol (200 mg, 0.72 mmol) in MeOH (3 mL) was added 4 M HCl/dioxane (1 mL, 4.0 mmol). The mixture was filtered to remove particles in suspension. The solution was evaporated and dried in vacuo, affording the title compound (208 mg, 92% yield); 1H NMR (400 MHz, DMSO-d6): δ 1.49 (d, 3H, J=6.7 Hz), 2.23 (s, 3H), 2.36 (s, 3H), 4.60 (s, 2H), 4.75 (m, 1H), 6.10 (s, 1H), 9.24 (s, 1H); M+279.

reactant | 6-methyl-2-({[4-methyl-1-(propan-2-yl)-1H-imidazol-5-yl]methyl}-sulfanyl)pyrimidin-4-ol | 0.72 mmol, 200 mg | CC1=CC(=NC(=N1)SCC1=C(N=CN1C(C)C)C)O | C13H18N4OS
reactant | HCl dioxane | 4.0 mmol, 4 M, 1 mL | Cl.O1CCOCC1
solvent | MeOH | 3 mL | CO | CH4O
product | 6-methyl-2-({[4-methyl-1-(propan-2-yl)-1H-imidazol-5-yl]methyl}sulfanyl)pyrimidin-4-ol hydrochloride | 208 mg, 92% yield | Cl.CC1=CC(=NC(=N1)SCC1=C(N=CN1C(C)C)C)O | InChI=1S/C13H18N4OS.ClH/c1-8(2)17-7-14-10(4)11(17)6-19-13-15-9(3)5-12(18)16-13;/h5,7-8H,6H2,1-4H3,(H,15,16,18);1H
